US08541576B2
Step a. Preparation of 4-(4-methylpiperazin-1-yl)phenyl acetate
A mixture of 4-(4-methylpiperazin-1-yl)phenol 1.080 mg (5.59 mmol) and TEA 1.72 ml (12.3 mmol) in DCM was cooled in an ice bath and 0.44 ml (6.15 mmol) of acetyl chloride were added dropwise. After completion, the reaction was filtered, the organic phase quickly extracted with water, dried over Na2SO4 and evaporated down to give a light pink solid. LC/MS (m/z): 235.4 [M+H]+, HPLC (254 nm) method 3 Rt 1.89 min.

reactant | 4-(4-methylpiperazin-1-yl)phenol | 5.59 mmol, 1.080 mg | CN1CCN(CC1)C1=CC=C(C=C1)O | C11H16N2O
reactant | acetyl chloride | 6.15 mmol, 0.44 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(4-methylpiperazin-1-yl)phenyl acetate | C(C)(=O)OC1=CC=C(C=C1)N1CCN(CC1)C | C13H18N2O2
